US07737176B2
Step a): (2,5-dimethoxyphenyl)-2-oxoacetaldehyde
A mixture of 3.66 g (33 mmol) of selenium dioxide, 1 ml of water and 25 ml of dioxane is heated to 60° C. 5.4 g (30 mmol) of 2′,5′-dimethoxyacetophenone are added and the mixture is refluxed for 16 hours. The solvents are evaporated off (orange-coloured oil; 6 g) and the product obtained is purified by flash chromatography (dichloromethane) (3.1 g of yellow oil; 53%).

reactant | selenium dioxide | 33 mmol, 3.66 g | [Se](=O)=O | O2Se
reactant | water | 1 ml | O | H2O
reactant | 2′,5′-dimethoxyacetophenone | 30 mmol, 5.4 g | COC1=C(C=C(C=C1)OC)C(C)=O | C10H12O3
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | (2,5-dimethoxyphenyl)-2-oxoacetaldehyde | COC1=C(C=C(C=C1)OC)C(C=O)=O | C10H10O4
